US08664220B2
Step 2: 1-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.250 g, 0.689 mmol), 2-bromo-6-phenyl-pyridine (0.1457 g, 0.62 mmol), cesium carbonate (0.2694 g, 0.826 mmol) and (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.032 g, 0.052 mmol) were dissolved in toluene (3 mL) and the solution was degassed with bubbling N2 (g). Tris(dibenzylideneacetone)dipalladium(0) (0.0158 g, 0.017 mmol) was added and the reaction was heated to 110° C. for 24 hours. After cooling the reaction was submitted to standard aqueous workup and silica gel chromatography to afford the title compound.

reactant | 1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.689 mmol, 0.250 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-bromo-6-phenyl-pyridine | 0.62 mmol, 0.1457 g | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
reactant | cesium carbonate | 0.826 mmol, 0.2694 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.052 mmol, 0.032 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.017 mmol, 0.0158 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC=CC=C1 | C33H29N3O3
